US04968804
A suspension of 4.73 g (0.0195 mol) of 4,4'-dicarbamoyl-2,2'-bipyridine [J. Am. Chem. Soc. 80. 2745 (1958)] and 5.67 g (0.0476 mol) of thionyl chloride in 30 ml of pyridine is stirred for 16 hours at 100° . After cooling, the reaction mixture is diluted with 100 ml of methylene chloride, filtered and concentrated to dryness by evaporation. The residue is then chromatographed with methylene chloride over silica gel. In this manner, 4,4'-dicyano-2,2'-bipyridine is obtained in the form of white crystals having a melting point of 238°-240°.

reactant | 4,4'-dicarbamoyl-2,2'-bipyridine | 0.0195 mol, 4.73 g | C(N)(=O)C1=CC(=NC=C1)C1=NC=CC(=C1)C(N)=O | C12H10N4O2
reactant | thionyl chloride | 0.0476 mol, 5.67 g | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4,4'-dicyano-2,2'-bipyridine | C(#N)C1=CC(=NC=C1)C1=NC=CC(=C1)C#N | C12H6N4
